US08466282B2
Tert-butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate
A solution of (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (279 mg), pyrrolidine (42 μl), WSC.HCl (144 mg), HOBt (107 mg), diisopropylethylamine (255 μl) and DMF (3 ml) was stirred at room temperature for 15 hr. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate, and the liberated oil was extracted with ethyl acetate (20 ml). The extract was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (245 mg) as an amorphous compound.

reactant | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 279 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CCCCOC)C1=CC=CC=C1)C(=O)O | C29H43N5O6
reactant | pyrrolidine | 42 μl | N1CCCC1 | C4H9N
reactant | WSC.HCl | 144 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 107 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 255 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Tert-butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate | 245 mg | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50N6O5
